US07129232B2
To a solution of 7-[2,3-bis(tert-butoxycarbonyl)guanidino]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (1.83 g) in pyridine (10 ml) was added triphenylmethyl chloride (1.67 g). The mixture was stirred at 50° C. for 5 hours. After cooling, chloroform (50 ml) was added to the reaction mixture, and the mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 2% methanol/chloroform to give 7-[-2,3-bis(tert-butoxycarbonyl)guanidino]-1-triphenylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole (1.57 g) as a solid.

reactant | 7-[2,3-bis(tert-butoxycarbonyl)guanidino]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 1.83 g | C(C)(C)(C)OC(=O)N=C(NC1=C2N(N=C1)CCN2)NC(=O)OC(C)(C)C | C16H26N6O4
reactant | triphenylmethyl chloride | 1.67 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-[-2,3-bis(tert-butoxycarbonyl)guanidino]-1-triphenylmethyl-2,3-dihydro-1H-imidazo[1,2-b]pyrazole | 1.57 g | C(C)(C)(C)OC(=O)N=C(NC1=C2N(N=C1)CCN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(=O)OC(C)(C)C | C35H40N6O4
